US08629143B2
2-amino-4-(2,4-dimethylphenyl)phthalazin-1(2H)-one
2-(2,4-Dimethylbenzoyl)benzoic acid was treated with hydrazine hydrate using a method similar to that described in Example 11A [MS (APCI+) M/Z 251 (M+H)+], followed by treatment with O-(diphenylphosphoryl)hydroxylamine using a method similar to that described in Example 1B to give the title compound.

reactant | 2-(2,4-Dimethylbenzoyl)benzoic acid | CC1=C(C(=O)C2=C(C(=O)O)C=CC=C2)C=CC(=C1)C | C16H14O3
reactant | hydrazine hydrate | O.NN
reactant | O-(diphenylphosphoryl)hydroxylamine | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)ON | C12H12NO2P
product | 2-amino-4-(2,4-dimethylphenyl)phthalazin-1(2H)-one | NN1C(C2=CC=CC=C2C(=N1)C1=C(C=C(C=C1)C)C)=O | C16H15N3O
